US07199150B2
5-Phenylpent-1-yne
The title compound was synthesized using 3-phenyl-1-iodopropane and sodium acetylide by conducting the reactions similar to those mentioned in Reference example 29.

reactant | 3-phenyl-1-iodopropane | C1(=CC=CC=C1)CCCI | C9H11I
reactant | sodium acetylide | [C-]#[C-].[Na+].[Na+]
product | 5-Phenylpent-1-yne | C1(=CC=CC=C1)CCCC#C | C11H12
